US05041455
B. 3-(4-(2-(2-butoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridiniumiodide
A mixture of methyl iodide (0.5 ml, 9 mmol) and 3-(4-(2-(2-butoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration.

reactant | methyl iodide | 9 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-(2-(2-butoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | C(CCC)OCCOCCOC=1C(=NSN1)C=1C=NC=CC1 | C15H21N3O3S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-(2-(2-butoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridiniumiodide | [I-].C(CCC)OCCOCCOC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C16H24N3O3S.HI/c1-3-4-8-20-9-10-21-11-12-22-16-15(17-23-18-16)14-6-5-7-19(2)13-14;/h5-7,13H,3-4,8-12H2,1-2H3;1H/q+1;/p-1
